simulator lang=spectre
global 0

ahdl_include "./dut/adc_sample_clock_sequencer.va"

XDUT (rst s ss nc_az nc conv) adc_sample_clock_sequencer
Iground_ref (rst 0) isource dc=0

simulatorOptions options evas_profile=balanced

tran tran stop=22n maxstep=20p
save conv nc nc_az rst s ss
